US04302448
a. 3,5-Dihydroxybenzoyl-L-tyrosine methyl ester
231.2 g of 3,5-dihydroxybenzoic acid are dissolved in 4 l of dimethyl formamide. 313 g of L-tyrosine-methyl ester hydrochloride, 202 g of 1-hydroxybenzotriazole and 346 ml of N-ethyl morpholine and subsequently 297 g of dicyclohexyl carbodiimide are added. The mixture is stirred over night at room temperature, and the precipitated dicyclohexyl urea is filtered off. The solvent is distilled off in vacuo, the residue is taken up in 4 l of ethyl acetate, the ethyl acetate solution is washed 4 times each with saturated sodium bicarbonate solution, 3 times with 400 ml portions of a solution of 5% KHSO4 and 10% K2SO4 and twice with 200 ml portions of water, dried over sodium sulfate and subsequently brought to dryness. Yield: 360 g of resin.

reactant | 3,5-dihydroxybenzoic acid | 231.2 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | L-tyrosine-methyl ester hydrochloride | 313 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | 1-hydroxybenzotriazole | 202 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 346 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexyl carbodiimide | 297 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethyl formamide | 4 l | CN(C=O)C | C3H7NO
product | 3,5-Dihydroxybenzoyl-L-tyrosine methyl ester | COC([C@@H](NC(C1=CC(=CC(=C1)O)O)=O)CC1=CC=C(C=C1)O)=O | C17H17NO6
